US06175015B1
1. 9-methylcarbazole-3-carboxylic acid
A mixture of 9H-carbazole-3-carboxylic acid (300 mg, 1.42 mmol), K2CO3 (800 mg) and methyl iodide (1 mL) in 25 mL of acetone was heated under reflux overnight, then cooled and evaporated in vacuo. A mixture of the resultant residue and NaOH (170 mg) in aqueous MeOH (90%, 25 mL) was stirred at 50° C. for 30 minutes. The reaction mixture was concentrated and acidified with diluted HCl. The solids were collected by filtration and dried to give the title compound (280 mg, 87%).

reactant | 9H-carbazole-3-carboxylic acid | 1.42 mmol, 300 mg | C1=CC(=CC=2C3=CC=CC=C3NC12)C(=O)O | C13H9NO2
reactant | K2CO3 | 800 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl iodide | 1 mL | CI | CH3I
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 9-methylcarbazole-3-carboxylic acid | 280 mg, 87% | CN1C2=CC=CC=C2C=2C=C(C=CC12)C(=O)O | C14H11NO2
